US09085577B2
N-(4-Bromo-2-chlorophenyl)-1,4-dioxaspiro[4.5]decan-8-yl-amine (D38)
A mixture of 4-bromo-2-chloro-phenylamine (6 g, 29.06 mmol), [CAS 38762-41-3], 1,4-cyclohexanedione monoethyleneketal [CAS 4746-97-8], (6.908 g, 43.59 mmol), and sodium triacetoxy-borohydride (9.239 g, 43.59 mmol) in DCE (100 ml) and acetic acid (0.2 ml) was stirred at r.t. for 2 days. The mixture was then filtered through a pad of diatomaceous earth and washed with DCM. The filtrate was washed with NaHCO3 (aqueous sat. solution), sodium chloride (aqueous sat. solution), dried (MgSO4) and concentrated in vacuo. The crude product thus obtained was purified by column chromatography (silica gel; DCM/AcOEt 4:1 as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate compound D38 (8.57 g, 85%).

reactant | 4-bromo-2-chloro-phenylamine | 29.06 mmol, 6 g | BrC1=CC(=C(C=C1)N)Cl | C6H5BrClN
reactant | 1,4-cyclohexanedione monoethyleneketal | 43.59 mmol, 6.908 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | sodium triacetoxy-borohydride | 43.59 mmol, 9.239 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 100 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | N-(4-Bromo-2-chlorophenyl)-1,4-dioxaspiro[4.5]decan-8-yl-amine | BrC1=CC(=C(C=C1)NC1CCC2(OCCO2)CC1)Cl | C14H17BrClNO2
